US07504508B2
Methyl 5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}thiophene-2-carboxylate (80 mg, 0.17 mmol, 1 eq.) was dissolved in methanol (6 ml). A solution of potassium carbonate (200 mg, 1.4 mmol, 8 eq.) in water (2 ml) was added and reaction mixture was stirred at room temperature for 20 h. The mixture was concentrated and the residue was acidified with a 1N HCl aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated to give 5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydro-quinolin-1(2H)-yl]carbonyl}thiophene-2-carboxylic acid (76 mg, 99%).

reactant | Methyl 5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}thiophene-2-carboxylate | 0.17 mmol, 80 mg, 1 eq. | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(S1)C(=O)OC)C)C1=CC=C(C=C1)Cl | C25H23ClN2O4S
reactant | potassium carbonate | 1.4 mmol, 200 mg, 8 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 6 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydro-quinolin-1(2H)-yl]carbonyl}thiophene-2-carboxylic acid | 76 mg, 99% | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(S1)C(=O)O)C)C1=CC=C(C=C1)Cl | C24H21ClN2O4S
